US04734415
6-[4-[(4,5-Dihydro-2-oxazolyl)amino]phenyl]-4,5-dihydro-3(2H)-pyridazinone
A mixture of 1.8 g of N-(2-chloroethyl)-N'-[4-(1,4,5,6-tetrahydro-6-oxo-3-pyridazinyl)phenyl]-urea and 0.7 g of NaOMe in 20 ml of DMF is heated at 100° C. for five hours. The DMF is distilled under reduced pressure, the residue is treated with water, and the pH of the solution is adjusted to 6. The solid is filtered, washed with water, and crystallized from DMF to yield 1.2 g of the product, 6-[4-[(4,5-dihydro-2-oxazolyl)amino]phenyl]-4,5-dihydro-3(2H)-pyridazinone, mp 332°-333° C.

reactant | N-(2-chloroethyl)-N'-[4-(1,4,5,6-tetrahydro-6-oxo-3-pyridazinyl)phenyl]-urea | 1.8 g | ClCCNC(=O)NC1=CC=C(C=C1)C1=NNC(CC1)=O | C13H15ClN4O2
reactant | NaOMe | 0.7 g | C[O-].[Na+]
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 6-[4-[(4,5-Dihydro-2-oxazolyl)amino]phenyl]-4,5-dihydro-3(2H)-pyridazinone | 1.2 g | O1C(=NCC1)NC1=CC=C(C=C1)C=1CCC(NN1)=O | C13H14N4O2
